US05444082
Sodium hydride (0.045 mg, 60% dispersion in mineral oil) was added under nitrogen atmosphere and at room temperature, to a mixture of 0.740 g of dimethyl (2-oxo-[5H]-4-furyl)methylphosphonate and 0.080 g of 9-(2-(N-pyrrolidinyl)ethoxy)-3-formyl-spiro[5.5]-undecane (I-af, Ex. 30) in 5 ml of anhydrous tetrahydrofuran. After 2 hrs the reaction was quenched with sodium dihydrogenophosphate (5% water solution) and diluted with ethyl acetate; the organic layer was separated, dried over sodium sulfate and evaporated to dryness under reduced pressure The residue was purified by flash chromatography (SiO2 ; chloroform/methanol 80/20) to give 0.110 g of (EZ)-9-(2-(N-pyrrolidinyl)ethoxy)-3-(2-(2-oxo-[5H]-4-furyl)vinyl)-spiro[5.5]-undecane (I-b) as amorphous solid. TLC: Rf=0.32 (SiO2 plates, chloroform/methanol 80/20). 1H-NMR (300 MHz, CDCl3, ppm from TMS): 6.50-5.70 (2H, m); 6.30 (1H, bs); 4.81 (2H, bs); 3.68 (2H, t), 3.45(1H, m), 2.75 (2H, t), 2.70-2.00 (5H, m); 1.97-0.99 (22H, m).

reactant | dimethyl (2-oxo-[5H]-4-furyl)methylphosphonate | 0.740 g | O=C1OCC(=C1)CP(OC)(OC)=O | C7H11O5P
reactant | 9-(2-(N-pyrrolidinyl)ethoxy)-3-formyl-spiro[5.5]-undecane | 0.080 g | N1(CCCC1)CCOC1CCC2(CCC(CC2)C=O)CC1 | C18H31NO2
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
catalyst | Sodium hydride | 0.045 mg | [H-].[Na+]
product | (EZ)-9-(2-(N-pyrrolidinyl)ethoxy)-3-(2-(2-oxo-[5H]-4-furyl)vinyl)-spiro[5.5]-undecane | 0.110 g | N1(CCCC1)CCOC1CCC2(CCC(CC2)C=CC2=CC(OC2)=O)CC1 | C23H35NO3
